* Z:\mnt\spice-netlists\LTC3765_LTC3766_DC1739B-C.asc
L1 N005 IN 27.5µ
L2 N006 N001 110µ
L3 N001 OUT 16µ
C1 OUT 0 68µ x2
C2 OUT 0 10µ
M§Q1 N005 N008 N011 N011 BSC028N06LS3
C3 N027 N026 1µ
L4 N031 N026 592µ
L5 N030 N025 925µ
C4 N025 N024 .1µ
C5 N024 N030 220p
C6 N029 0 5n
C7 N022 0 1µ
M§Q2 N012 N017 N022 N022 2N7002
C8 N005 N010 0.6µ
M§Q3 N006 N009 N013 N013 BSC057N08NS3
M§Q4 N001 N007 0 0 BSC190N15NS3
V1 IN 0 12
M§Q5 N010 N015 N016 N016 IRF9640
C9 N041 0 7n
R1 OUT N036 11.5K
R2 N036 0 604
C10 N037 0 2.2n
C11 N001 0 47p
D1 IN N012 ZLLS1000
C12 N021 N015 .1µ
D2 N015 0 ZLLS1000
D4 N001 N003 ES1D
C13 N003 0 2.2n
R3 OUT N003 15K
C14 N020 0 10µ
R4 OUT N023 1.82K
R5 N023 0 1.87K
C15 OUT N036 1n
R6 N014 N013 100
R7 N019 0 100
XU1 0 N008 N022 N021 N016 N033 N011 0 0 N034 N032 N028 N029 N017 N024 N030 LTC3765
XU2 N007 N009 0 N020 0 N036 N037 N018 N041 N040 NC_01 N023 N023 0 N035 0 N014 N019 N038 N039 N020 OUT N004 OUT N031 N027 0 N020 LTC3766
R8 IN N028 28.7K
R9 N028 0 4.99K
R10 N032 0 16.2K
R11 N033 0 8.25K
R12 N034 0 21.5K
R13 IN N017 100K
R14 N011 0 4m
R15 N015 0 10K
R16 N016 0 0.75
R17 N013 0 5m
R18 N014 N019 2.21K
R19 N001 N004 1.82K
R20 N004 0 1.82K
R21 N018 0 78.7K
R22 N035 0 60.4K
R23 N038 0 15K
R24 N039 0 20.0K
R25 N040 0 102K
C16 N016 0 12n
C17 N036 0 1.5n
R26 OUT N018 464K
S1 0 OUT N002 0 MySwitch
V2 N002 0 PULSE(0 12 2.0m 10n 10n 0.2m)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.4m startup
K1 L1 L2 1
K2 L4 L5 1
* LTC3765 - Active Clamp Forward Controller and Gate Driver\nLTC3766 - High Efficiency, Secondary-Side Synchronous Forward Controller\n120W Isolated Forward Converter with Synchronous Rectification\nInput: 9V-36V     Output: 12V @ 10A
* Notes:\n \n1. Not included in Sim: Input Filter, Transformer Leakage inductance, LTC3765 Freq Foldback circuit, \n    RUN, ISMAG & DELAY pin filters, Sense resistor inductance and compensating filters, Y-cap.\n2. SS caps changed from 33nF to 5nF & 7nF to reduce sim time.\n3. D3, Q1, Q3, Q4, & Q5 models replaced with nearest equivalent.\n4. C8 = 1uF rated, 0.6uF at 40V\n \nIf the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\nIt remains the customer's responsibility to verify proper and reliable operation in the actual application.\nComponent substitution and printed circuit board layout may significantly affect circuit performance or reliability.\nContact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\nCopyright © 2014 Linear Technology Inc. All rights reserved.
.model MySwitch SW(Ron=1.2 Roff=1Meg Vt=3Vh=-.5)
.lib LTC3765.sub
.lib LTC3766.sub
.backanno
.end
